US06653308B2
To 1 L 3-neck round bottom flask, fitted with mechanical stirring, thermocouple and addition funnel, was charged morpholine (91.5 g, 91.5 ml, 1.05 mole, 1.0 eq.) and 200 ml of methanol. The solution was stirred rapidly while adding R-epichlorohydrin (100 g, 84.5 ml, 1.08 mole, 1.03 eq.) from the addition funnel over about 30 minutes. The temperature was monitored and when the pot temperature reached 27° C., the reaction was cooled with an ice water bath. The clear solution was stirred for 18 hours. The reaction was assayed by GC (dilute 5 drops of reaction mixture into 1 ml of ethanol and inject onto a 15 m DB-5 capillary GC column with the following run parameters, Injector 250° C., detector 250° C., initial oven temperature 28° C. warming to 250° C. at 10° C. per minute.) The reaction was complete with less than 3% morpholine remaining. The solution was cooled to 10° C. and a 25 wt. % solution of sodium methoxide in methanol (233 g, 1.08 mole, 247 ml) was added dropwise keeping the temperature less than 15° C. The resulting white slurry was stirred at 10-15° C. for 2 hours and checked by GC using the above conditions. None of the chlorohydrin could be observed. The mixture was concentrated on the rotoevaporator using 50° C. bath and full house vacuum. The resulting mixture was diluted with water (500 ml) and methylene chloride. The phases were separated and the aqueous phase washed with methylene chloride (500 ml). The combined organic layers were dried over sodium sulfate and concentrated to a clear, colorless oil. This provided 145 g, 97% yield of 1,2-epoxy-3-morpholin-4-ylpropane. 1H NMR (400 MHz, DMSO-d6) δ3.3 (dd, 4 H), 3.1 (m, 1 H), 2.6 (dd, 1 H), 2.5 (dd, 1 H), 2.4 (m, 4 H), 2.2 (dd, 2 H); 13C NMR (100 MHz, DMSO-d6) δ65.4, 60.1, 53.1, 48.9, 43.4.

reactant | morpholine | 1.05 mole, 91.5 ml, 91.5 g, 1.0 eq. | N1CCOCC1 | C4H9NO
reactant | methanol | 200 ml | CO | CH4O
reactant | R-epichlorohydrin | 1.08 mole, 84.5 ml, 100 g, 1.03 eq. | C1[C@@H](O1)CCl | C3H5ClO
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 1.08 mole, 247 ml, 233 g | CO | CH4O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1,2-epoxy-3-morpholin-4-ylpropane | 145 g, 97% yield | O1CC1CN1CCOCC1 | C7H13NO2
